US08372837B2
To a mixture of 5-chloro-6-phenylpyridazin-3(2H)-one (207 mg, 1.0 mmol) in DMF (3 mL) at room temperature under argon was added K2CO3 (415 mg, 3.0 mmol), and followed by addition of 1-(bromomethyl)-4-methoxybenzene (241 mg, 1.2 mmol). The resulting reaction mixture was stirred at room temperature overnight. Water (25 mL) was added to the reaction mixture and stirred for 1 hour. The product was collected by filtration and dried overnight under reduce pressure to yield 278 mg (81%) of 5-chloro-2-(4-methoxybenzyl)-6-phenylpyridazin-3(2H)-one as a tan solid. MS (ESI) 327 (M+H).

reactant | 5-chloro-6-phenylpyridazin-3(2H)-one | 1.0 mmol, 207 mg | ClC1=CC(NN=C1C1=CC=CC=C1)=O | C10H7ClN2O
reactant | K2CO3 | 3.0 mmol, 415 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(bromomethyl)-4-methoxybenzene | 1.2 mmol, 241 mg | BrCC1=CC=C(C=C1)OC | C8H9BrO
reactant | Water | 25 mL | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 5-chloro-2-(4-methoxybenzyl)-6-phenylpyridazin-3(2H)-one | 278 mg, 81% | ClC1=CC(N(N=C1C1=CC=CC=C1)CC1=CC=C(C=C1)OC)=O | C18H15ClN2O2
